US04282249
(3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-((allyloxyimino)methyl)cyclopropanecarboxylate
A solution of 3.7 g of 3-phenoxybenzyl bromide and 2.8 g of (1R,cis)-2,2-dimethyl-3-((allyloxyimino)methyl)cyclopropanecarboxylic acid (prepared by a method similar to that shown in Embodiment I) and 1.4 g of triethylamine in 30 ml of ethyl acetate was refluxed for 21/2 hours. The reaction mixture was diluted with ether and washed with water. The ether phase was dried over magnesium sulfate, filtered and stripped to give an oil. This oil in methylene chloride was passed through a florisil column to give 2.5 g of the desired product as an oil [α]D25 +22.9° (CHCl; c=0.012 g/cc).

reactant | 3-phenoxybenzyl bromide | 3.7 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | (1R,cis)-2,2-dimethyl-3-((allyloxyimino)methyl)cyclopropanecarboxylic acid | 2.8 g | CC1([C@@H]([C@@H]1C=NOCC=C)C(=O)O)C | C10H15NO3
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-((allyloxyimino)methyl)cyclopropanecarboxylate | 2.5 g | CC1([C@@H]([C@@H]1C=NOCC=C)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C23H25NO4
